US06326397B1
520 mg of (2E,4E,6Z)-7-(3,5-di-tert.-butyl-2-butyloxyphenyl)-3,7-dimethyl-2,4,6-heptatrienoic acid ethyl ester was suspended in 5 ml ethanol and treated with 5 ml 6N NaOH and refluxed for 1.5 hr. This was cooled and acidified to pH 3 with dilute HCl . The solid which precipitated was extracted into chloroform. The organic portion was washed with water, dried (Na2SO4), and had the solvent removed. This gave a solid which was crystallized from methylene chloride/hexane to give (2E,4E,6Z)-7-[3,5-di-tert.butyl-2-butyloxyphenyl]-3-methyl-2,4,6-octatrienoic acid. 1H NMR (CDCl3) δ 7.08 (dd, 4H, aromatics), 6.65 (dd, 1H,H-5), 6.22 (d, 1H,H-4), 6.18 (d, 1H,H-6), 3.7 (dt, 2H, —OCH2—), 2.24 (s, 3H), 2.15 (s, 3H). M.p. 148-151° C.

reactant | (2E,4E,6Z)-7-(3,5-di-tert.-butyl-2-butyloxyphenyl)-3,7-dimethyl-2,4,6-heptatrienoic acid ethyl ester | 520 mg | C(C)OC(\C=C(\C=C\C=C(\C)/C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCCCC)/C)=O | C29H44O3
reactant | NaOH | 6N, 5 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (2E,4E,6Z)-7-[3,5-di-tert.butyl-2-butyloxyphenyl]-3-methyl-2,4,6-octatrienoic acid | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)\C(=C/C=C/C(=C/C(=O)O)/C)\C)OCCCC | C27H40O3
